US08258130B2
5-Fluoro-3-methyl-indol-1-ylamine (10.6 mmol) is treated with 4-methyl-2-pyridin-2-ylpyrimidine-5-carboxylic acid (2.75 g, 12.8 mmol) in DMF (75 mL) and the mixture is stirred at rt for 10 min. The mixture is then treated with 2,4-dimethoxy-6-(4-methylmorpholin-4-yl)-[1,3,5]triazine chloride (3.82 g, 13.85 mmol) and stirred at 60° C. for 1 h. The mixture is concentrated in vacuo. The residue is diluted with Et2O (50 mL) and 10% NaHCO3 (50 mL), and the mixture is stirred at rt for 20 min. The resulting solid is filtered, washed, and dried to afford 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)amide (3.2 g, 83%). The solid is crystallized with MeOH:water (4:1) to afford 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)amide as a crystal. MS: 362 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 2.27 (s, 3H), 2.78 (s, 3H), 7.06 (m, 1H), 7.34 (m, 1H), 7.37 (s, 1H), 7.44 (m, 1H), 7.59 (m, 1H), 8.05 (m, 1H), 8.45 (m, 1H), 8.80 (m, 1H), 9.25 (s, 1H). IC50=7 nM.

reactant | 5-Fluoro-3-methyl-indol-1-ylamine | 10.6 mmol | FC=1C=C2C(=CN(C2=CC1)N)C | C9H9FN2
reactant | 4-methyl-2-pyridin-2-ylpyrimidine-5-carboxylic acid | 12.8 mmol, 2.75 g | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=C1 | C11H9N3O2
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)amide | 3.2 g, 83% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=C1)C)C | C20H16FN5O
